US06448424B1
Preparation of bis(tetrahydrofluorenyl)ethane [step (c)]
Tetrahydrofluorene (17.6 mmol) was dissolved in 20 ml of dry THF and cooled to 0° C. Butyllithium, (11 ml of a solution 1.6M in hexane, 17.6 mmol) was added dropwise to give a red/orange solution that was stirred for 6h. 1,2-dibromoethane (1.66 g, 8.81 mmol) was added quickly. The resulting beige suspension was stirred overnight. The mixture was hydrolyzed with NH4Cl and extracted in THF and diethyl ether. The organics were collected, dried, filtered and the solvents were removed to give a yellow solid.

reactant | Tetrahydrofluorene | 17.6 mmol | C1CCCC=2C3=CC=CC=C3CC12 | C13H14
reactant | Butyllithium | C(CCC)[Li]
reactant | 1,2-dibromoethane | 8.81 mmol, 1.66 g | BrCCBr | C2H4Br2
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | bis(tetrahydrofluorenyl)ethane | C1(CCCC=2C3=CC=CC=C3CC12)C(C)C1CCCC=2C3=CC=CC=C3CC12 | C28H30
